datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:24]([C:23]([H:32])([H:33])[H:34])([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])[H:13])([H:11])[H:12],32.3842
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:9])([H:7])[H:8],25.5224
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:7],38.4928
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:23])([H:24])[H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])[H:22])[H:5],27.991
[C:0]([O:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([H:5])([H:6])[H:7].[O:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:15],95.0496
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[H:7]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][H:7],38.57648
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][C:10]([H:11])([H:12])[H:13],0.0
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],56.0656
[O:0][C:1](=[C:2]([C:3](=[C:4]([C:5](=[C:6]=[O:7])[H:12])[H:11])[H:10])[H:9])[H:8]>>[O:0]1[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([C:6]=[O:7])[H:12],121.888288
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],93.3032
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([O:12][O:13])([H:37])[H:38])([H:35])[H:36])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([O:12][O:13][H:33])([H:37])[H:38])([H:35])[H:36])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16],71.1999648
[O:0][H:1].[O:2][C:3]([c:4]1[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]1[H:16])([H:10])[H:11]>>[O:0]([H:1])[H:10].[O:2]=[C:3]([c:4]1[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]1[H:16])[H:11],0.0
[C:0]([H:1])([H:2])[H:3].[C:4](=[O:5])[H:6]>>[C-:4]#[O+:5].[C:0]([H:1])([H:2])([H:3])[H:6],0.0
[N:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6]>>[H:5][O:6].[N:0]([C:1]=[O:2])([H:3])[H:4],21.740064
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][H:17],26.9868
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([c:12]1[c:13]([H:29])[c:14]([H:30])[c:15]([H:31])[c:16]([H:32])[c:17]1[H:33])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([O:2][H:22])=[O:3])([H:18])([H:19])[H:20].[C:4](=[C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])[H:23])([c:12]1[c:13]([H:29])[c:14]([H:30])[c:15]([H:31])[c:16]([H:32])[c:17]1[H:33])[H:21],174.4728
